US09359339B2
Step B. 7-Bromo-5-chloro-1-benzothiophene
In a round-bottomed flask fitted with a reflux condenser and addition funnel, a mixture of chlorobenzene (11 mL) and polyphosphoric acid (7 g) was heated to reflux. A solution of 2-bromo-1-[(2,2-diethoxyethyl)thio]-4-chlorobenzene in chlorobenzene (10 mL) was added dropwise via addition funnel then the mixture was refluxed overnight. The viscous mixture was decanted while hot. Additional chlorobenzene (25 mL) was added to the flask, stirred at 120° C. for 15 minutes, then decanted. The remaining viscous mixture in the flask was treated with toluene (50 mL), water (25 mL), and saturated Na2CO3 (aq) (10 mL). The resulting layers were separated, and the aqueous phase was extracted with toluene. The toluene and chlorobenzene fractions were combined, washed with saturated Na2CO3 (aq), then saturated NaCl (aq), dried over Na2SO4, filtered, then concentrated. The residue was purified by silica gel chromatography eluting with 0-10% EtOAc/hexanes to afford the title compound as a white solid. 1H NMR (500 MHz, CDCl3) δ 7.78 (d, J=1.5 Hz, 1H); 7.59 (d, J=5.5 Hz, 1H); 7.53 (d, J=1.5 Hz, 1H); 7.39 (d, J=5.5 Hz, 1H).

reactant | 2-bromo-1-[(2,2-diethoxyethyl)thio]-4-chlorobenzene | BrC1=C(C=CC(=C1)Cl)SCC(OCC)OCC | C12H16BrClO2S
solvent | chlorobenzene | 10 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 11 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 7-Bromo-5-chloro-1-benzothiophene | BrC1=CC(=CC=2C=CSC21)Cl | C8H4BrClS
